US07919504B2
To a 250 mL 3-neck round-bottom flask equipped with condenser was added sodium hydroxide (6.2 g, 156 mmol), sulfur (5.0 g, 156 mmol), and hydrazine (5.0 g, 156 mmol). The mixture was stirred at reflux 85° C. for 2 hours. The solution was cooled to room temperature and treated dropwise via syringe with 3-bromobenzaldehyde (18 mL, 156 mmol). The precipitate was recovered by filtration, washed with water and dried in an oven to provide (1E,2E)-1,2-bis(3-bromobenzylidene)hydrazine (23 g, 40%). LCMS (M+H) 367.1 calc. for C14H, Br2N2 366.9. 1H NMR (400 MHz, CDCl3): δ ppm 7.30-7.35 (m, 2H) 7.59 (d, J=7.82 Hz, 2H) 7.70-7.73 (d, 2H) 8.03 (s, 2H) 8.56 (s, 2H).

reactant | sodium hydroxide | 156 mmol, 6.2 g | [OH-].[Na+]
reactant | sulfur | 156 mmol, 5.0 g | [S] | S
reactant | hydrazine | 156 mmol, 5.0 g | NN | H4N2
reactant | 3-bromobenzaldehyde | 156 mmol, 18 mL | BrC=1C=C(C=O)C=CC1 | C7H5BrO
product | (1E,2E)-1,2-bis(3-bromobenzylidene)hydrazine | 23 g, 40% | BrC=1C=C(\C=N\N=C\C2=CC(=CC=C2)Br)C=CC1 | C14H10Br2N2
